3
* Fourth circuit to test the program.
* Circuit with only resistors and sources

* .IMPRIMIR no1

.tran 1e-2 1e-4 GEAR 50

V1 1 0 SIN( 0 10 0.1e3 0 0 0 10)
R1 1 2 1e3
R2 2 3 1e3
C1 3 0 1e-6
